US04169157
Synthesis of 3,6,10,14,18-pentamethyl-5,9,13,17-nonadecatetraene-2-on
Ethyl 2-methylacetoacetate and geranyl geranylbromide were reacted each other and treated according to the preceding Example 1, except that the crude product was purified by distillation under reduced pressure in place of the column chromatography method, to obtain a fraction having the boiling point of 177°-180° C./0.9 mmHg as the objective product.

reactant | Ethyl 2-methylacetoacetate | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | geranyl geranylbromide | C(\C=C(/C)\CCC=C(C)C)C/C(=C/CC/C(=C/CBr)/C)/C | C20H33Br
product | 3,6,10,14,18-pentamethyl-5,9,13,17-nonadecatetraene-2-on | CC(C(C)=O)CC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C | C24H40O
